US05095014
3-(2-Chloro-6-methylphenoxy)-1-(diphenylmethyl)azetidine
A mixture of 48 g (0.2 mole) of 1-(diphenylmethyl)azetidin-3-ol and 22 g (0.22 mole) of triethylamine in 800 mL of toluene was cooled to 5° C. in an ice bath while stirring under nitrogen. The cooled reaction mixture was treated dropwise with 25.2 g (0.22 mole) of methanesulfonyl chloride in 25 mL of toluene. The reaction mixture was removed from the ice bath. After stirring for 3 hr, the reaction mixture was treated with ice water to dissolve the triethylamine hydrochloride then the aqueous phase was separated and the toluene phase washed with ice water (2×200 mL). The toluene solution was returned to the reaction flask and treated with 31.4 g (0.22 mole) of 2-chloro-6-methylphenol, 50 mg of tetrabutylammonium bromide and 26.4 g (0.66 mole) of sodium hydroxide in 100 mL of water. The reaction mixture was heated at reflux while stirring vigorously for 24 hr then stirred an additional 72 hr without heat. The mixture was transferred to a separatory funnel and the basic aqueous portion separated. The toluene portion was washed with water (3×100 mL), dried over magnesium sulfate and concentrated in vacuo to obtain 64.8 g. The crude product was purified by column chromatography using 800 g of Florisil and eluted with benzene to remove trace impurities and then eluted with an acetone gradient from 1-5%. The product came off in 5% acetone/benzene and was collected in 6 fractions which were combined and concentrated in vacuo, 55 g. The oily product which began to crystallize was triturated with ligroin to aid crystallization. Filtration yielded 45.6 g of product (62.7%). A sample recrystallized from ligroin then from 95% ethanol still showed a trace of impurity by t.l.c. (10% methanol/methylene chloride on silica gel). A sample was chromatographed on a 50 g column of Florisil. Elution with 2% acetone/benzene gave the pure product which was recrystallized from 95% ethanol yielding fine white crystals, mp. 92°-93° C.

reactant | 1-(diphenylmethyl)azetidin-3-ol | 0.2 mole, 48 g | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | triethylamine | 0.22 mole, 22 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 mole, 25.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-chloro-6-methylphenol | 0.22 mole, 31.4 g | ClC1=C(C(=CC=C1)C)O | C7H7ClO
reactant | sodium hydroxide | 0.66 mole, 26.4 g | [OH-].[Na+]
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 50 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 mL | O | H2O
product | 3-(2-Chloro-6-methylphenoxy)-1-(diphenylmethyl)azetidine | 45.6 g, 62.7% | ClC1=C(OC2CN(C2)C(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)C | C23H22ClNO
